US09376422B2
Compound 401: N-[(4,6-Dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-3-{[(2R*,6R*)-2,6-dimethylpiperidin-4-yl](ethyl)amino}-2-methyl-5-(trifluoromethyl)benzamide
To a stirred solution of 3-{[(2R,6R)-1-benzyl-2,6-dimethylpiperidin-4-yl](ethyl)amino}-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-2-methyl-5-(trifluoromethyl)benzamide (267 mg, 0.459 mmol) in MeOH (5 mL) was added Pd/C (250 mg). The reaction mixture was stirred at et for 2 hour under hydrogen atmosphere. The reaction mixture was filtered and the filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (1. NAM-300H silica gel produced by Nagara Science Co., Ltd., ethylacetate/MeOH=4/1 to ethylacetate/MeOH/triethylamine=1/1/0.01, 2. NH—SiO2, heptane/ethylacetate=30/1 to 8/1) to give the titled compound as a white solid (127 mg, 56% yield). 1H-NMR (400 MHz, CDCl3) δppm; 7.30 (s, 1H), 7.26 (s, 1H), 7.14 (t, J=6.1 Hz, 1H), 5.94 (s, 1H), 4.54 (dd, J=5.9, 1.6 Hz, 2H), 3.41-3.49 (m, 1H), 3.01-3.13 (m, 3H), 2.85-2.92 (m, 1H), 2.40 (s, 3H), 2.32 (s, 3H), 2.22 (s, 3H), 1.63-1.80 (m 4H), 1.13 (d, J=7.0 Hz, 3H), 1.02 (d, J=6.2 Hz, 3H), 0.83 (t, J=7.0 Hz, 3H); LC-MS: m/z [M+H] 493.1, [M+Na] 515.3; HPLC; 97.2% purity.

reactant | 3-{[(2R,6R)-1-benzyl-2,6-dimethylpiperidin-4-yl](ethyl)amino}-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-2-methyl-5-(trifluoromethyl)benzamide | 0.459 mmol, 267 mg | C(C1=CC=CC=C1)N1[C@@H](CC(C[C@H]1C)N(C=1C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C=C(C1)C(F)(F)F)C)CC)C | C33H41F3N4O2
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | 250 mg | [Pd] | Pd
product | N-[(4,6-Dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-3-{[(2R*,6R*)-2,6-dimethylpiperidin-4-yl](ethyl)amino}-2-methyl-5-(trifluoromethyl)benzamide | 127 mg, 56% yield | CC1=C(C(NC(=C1)C)=O)CNC(C1=C(C(=CC(=C1)C(F)(F)F)N(CC)C1C[C@H](N[C@@H](C1)C)C)C)=O | C26H35F3N4O2
